### PR TITLE
feat(Data/List): add Lyndon-Schutzenberger theorem on list commutativity 

### PR DESCRIPTION
**Pull request by MrSumato**
Add Lyndon-Schutzenberger theorem on list commutativity. Included definition for List.repeatSelf that returns list repeated n times.

---

This is my first mathlib PR, so any comments are highly appreciated.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Commutativity.lean [hunk 1]
```diff
@@ -0,0 +1,104 @@
...
+import Mathlib.Data.List.RepeatSelf
+
+/-!
+# commutativity
+
+Results commencted with commutativity of List with respect to append.
+
+## Main results
+
+- `comm_iff_common_root`: Lyndon-Schutzenberger theorem.
```
Comment (grunweg) [inline Mathlib/Data/List/Commutativity.lean:16]: Can you also explain what the Lyndon-Schutzenberg theorem states? Most people here don't know what this is, and I find at least two different statements when googling.

File: Mathlib/Data/List/Defs.lean [hunk 2]
```diff
@@ -1,7 +1,7 @@
 /-
 Copyright (c) 2014 Parikshit Khanna. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Parikshit Khanna, Jeremy Avigad, Leonardo de Moura, Floris van Doorn, Mario Carneiro
+Authors: Parikshit Khanna, Jeremy Avigad, Leonardo de Moura, Floris van Doorn, Mario Carneiro, Shimanogov Igor
```
Comment (grunweg) [inline Mathlib/Data/List/Defs.lean:4]: There is no hard rule, but usually I wouldn't add myself as a file author for just a few lemmas.

File: Mathlib/Data/List/RepeatSelf.lean [hunk 3]
```diff
@@ -0,0 +1,24 @@
...
+Copyright (c) 2025 Shimanonogov Igor. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Shimanonogov Igor
+-/
+import Mathlib.Data.List.Defs
+
+/-!
+# repeatSelf
+
+Proves various lemmas about `List.repeatSelf`.
```
Comment (grunweg) [inline Mathlib/Data/List/RepeatSelf.lean:11]: It's good that you're trying to be mindful about keeping the Defs file short: at the same time, having one single file with one lemma (with a five line proof) is unusual. Sometimes, there are good reasons for this (e.g., imports) --- but in this case, the lemma could either be
- right after the definition `repeatSelf`
- in a `Lemma.lean` file

File: Mathlib/Data/List/RepeatSelf.lean [hunk 4]
```diff
@@ -0,0 +1,24 @@
...
+-/
+
+variable {α : Type*} (n m : ℕ) (w : List α)
+
+namespace List
+
+theorem repeatself_homo :
```
Comment (grunweg) [inline Mathlib/Data/List/RepeatSelf.lean:18]: Have you seen mathlib's [naming convention](https://leanprover-community.github.io/contribute/naming.html) already? Because mathlib is huge, it is important that theorem names are predictable - otherwise, it becomes *very* hard to find lemmas.
The naming rules are quite literal; for instance, one would name a theorem something with "homomorphism" only if you really construct a homomorphism. I would call this something like `repeatSelf_append_repeatSelf` instead.

File: Mathlib/Data/List/Defs.lean [hunk 5]
```diff
@@ -410,6 +410,12 @@ def replaceIf : List α → List Bool → List α → List α
   | l, [], _ => l
   | n :: ns, tf :: bs, e@(c :: cs) => if tf then c :: ns.replaceIf bs cs else n :: ns.replaceIf bs e
 
+/-- `repeatSelf n l` is one list conisting of l repeated n times. -/
```
Comment (grunweg) [inline Mathlib/Data/List/Defs.lean:413]: There was a [recent zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/repeat.20list/with/514068338) about this particular definition: did you see this already? That thread suggests a slightly different name, and a different definition (`(List.replicate n l).flatten`) instead.

File: Mathlib/Data/List/Commutativity.lean [hunk 6]
```diff
@@ -0,0 +1,104 @@
...
+    obtain ⟨as, h₁, h₂⟩ := r
+    rw [h₁]
+    exact List.prefix_append u as
+  | inr l =>
+    left
+    obtain ⟨as, h₁, h₂⟩ := l
+    rw [h₁]
+    exact List.prefix_append v as
+
+theorem comm_iff_common_root {q p : List α} :
```
Comment (grunweg) [inline Mathlib/Data/List/Commutativity.lean:38]: Is this the L-S theorem: then add a doc-string please, mentioning this name. Thanks!

File: Mathlib/Data/List/Commutativity.lean [hunk 7]
```diff
@@ -0,0 +1,104 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Shimanonogov Igor
+-/
+import Mathlib.Data.List.Defs
+import Mathlib.Data.List.RepeatSelf
+
+/-!
+# commutativity
+
+Results commencted with commutativity of List with respect to append.
```
Comment (grunweg) [inline Mathlib/Data/List/Commutativity.lean:12]: I would re-phrase this sentence as something like `This file contains results about commutativity of `List.append`. But if the main purpose of this file is to prove the L-S theorem; you should really mention that - perhaps "In this file we prove the L-S theorem, that (some description here). As a by-product, we prove various results about commutativity of appending to lists".

As a final comment, the word "commutativity" in the context of List.append is a bit odd: I don't find it obvious what this means. Describing the theorem statement could help here.

**Review by grunweg — COMMENTED** [review]
Thank you for your PR. I have some comments about coding style, location and comments. (Having many comments on your first PR is normal; don't worry.)

Please address all comments, and remove the awaiting-author label once you have done so. If you are unsure about something, you can also ask on zulip (e.g., in the new members channel).

File: Mathlib/Data/List/RepeatSelf.lean (hunk 4 above)
Comment (plp127) [reply Mathlib/Data/List/RepeatSelf.lean:18]: I would have this lemma going the other way around, and be `@[simp]`.

File: Mathlib/Data/List/Commutativity.lean [hunk 8]
```diff
@@ -0,0 +1,104 @@
...
+## Main results
+
+- `comm_iff_common_root`: Lyndon-Schutzenberger theorem.
+-/
+
+namespace List
+
+variable {α : Type*} (n m : ℕ) {u v : List α}
+
+theorem prefix_if_concat_comm : (u ++ v = v ++ u) → (v <+: u ∨ u <+: v) := by
```
Comment (plp127) [inline Mathlib/Data/List/Commutativity.lean:23]: According to the naming convention this should say `_of_`, not `_if_` (you're not proving something about [if-then-else](https://leanprover-community.github.io/mathlib4_docs/find/?pattern=ite#doc)), and `concat` should be `append`. I'm still not sure about `comm`.

File: Mathlib/Data/List/Defs.lean [hunk 9]
```diff
@@ -410,6 +410,11 @@ def replaceIf : List α → List Bool → List α → List α
   | l, [], _ => l
   | n :: ns, tf :: bs, e@(c :: cs) => if tf then c :: ns.replaceIf bs cs else n :: ns.replaceIf bs e
 
+/-- `repeatList n l` is a list consisting of l repeated n times. -/
+
+@[simp]
+def repeatList (n: ℕ) (l: List α) : List α := (List.replicate n l).flatten
```
Comment (grunweg) [inline Mathlib/Data/List/Defs.lean:416]: Please put spaces around `:`, like this. (The same applies to a few other places below.)
```suggestion
def repeatList (n : ℕ) (l : List α) : List α := (List.replicate n l).flatten

**Review by grunweg — COMMENTED** [review]
Thanks; this is moving in the right direction. Here are a few more style comments. (I didn't really look at the main file yet.)

File: Mathlib/Data/List/Commutativity.lean [hunk 10]
```diff
@@ -0,0 +1,110 @@
+/-
+Copyright (c) 2025 Shimanonogov Igor. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Shimanonogov Igor
+-/
+import Mathlib.Data.List.Defs
+import Mathlib.Data.List.Lemmas
+
+/-!
+# commutativity
```
Comment (grunweg) [inline Mathlib/Data/List/Commutativity.lean:10]: This title is very unspecific: what exactly is supposed to be commutative?
An alternative title would be "The Lyndon-Schutzenberger theorem".

File: Mathlib/Data/List/Commutativity.lean [hunk 11]
```diff
@@ -0,0 +1,110 @@
...
+
+In that In this file we prove the Lyndon-Schutzenberger theorem,
+that states that lists commute if and only if they are the powers of the same list.
+As a by-product, we prove various results about commutativity of append.
```
Comment (grunweg) [inline Mathlib/Data/List/Commutativity.lean:14]: The grammar in this paragraph is off a few times: for instance, the first sentence has duplicate words and I'd reword the second sentence slightly. Here is how I would write this, as an example:
```suggestion
In this file we prove the Lyndon-Schutzenberger theorem, that concatenating two lists commutes
if and only if both are a powers of the same list.
As a by-product, we prove various results about commutativity of appending.

File: Mathlib/Data/List/Commutativity.lean [hunk 12]
```diff
@@ -0,0 +1,110 @@
...
+
+## Main results
+
+- `comm_iff_common_root`: Lyndon-Schutzenberger theorem,
```
Comment (grunweg) [inline Mathlib/Data/List/Commutativity.lean:18]: Then I'd write this doc-string as
```
- `comm_iff_common_root`: Lyndon-Schutzenberger theorem,
  appending two lists commutes if and only if both are repetitions of the same word.
```
You don't have to copy this wording - I merely want to show how it could also look.

File: Mathlib/Data/List/Commutativity.lean [hunk 13]
```diff
@@ -0,0 +1,110 @@
...
+  lists commute if and only if they are repetitions of the same word.
+-/
+
+namespace List
+
+variable {α : Type*} (n m : ℕ) {u v : List α}
+
+theorem prefix_of_append_comm : (u ++ v = v ++ u) → (v <+: u ∨ u <+: v) := by
+  intro h
```
Comment (grunweg) [inline Mathlib/Data/List/Commutativity.lean:27]: Have you seen [mathlib's style guide](https://leanprover-community.github.io/contribute/style.html) already? It's a long document, you don't have to read everything now --- but the rule "hypotheses left of colon" is applicable here. You can shorten your proof by modifying its statement a bit: make it
```
theorem prefix_of_append_comm (h : u ++ v = v ++ u) : (v <+: u ∨ u <+: v) := by
```
and then drop the `intro h` line.

File: Mathlib/Data/List/Commutativity.lean [hunk 14]
```diff
@@ -0,0 +1,110 @@
...
+  rw [List.append_eq_append_iff] at h
+  cases h with
```
Comment (grunweg) [inline Mathlib/Data/List/Commutativity.lean:29]: Here's a small Lean trick: did you know about the `obtain` tactic already? You can use that to simplify your code quite a bit. Let me explain this step by step.
- As first step, write `obtain (r | r) := h` instead of the `cases` tactic. Your code would look like this now (already tw o lines shorter):
```
  obtain (r | r) := h
  · right
    obtain ⟨as, h₁, h₂⟩ := r
    rw [h₁]
    exact List.prefix_append u as
  · left
    obtain ⟨as, h₁, h₂⟩ := r
    rw [h₁]
    exact List.prefix_append v as
```
Secondly, you're immediately destructing the pattern l resp. r further: `obtain` also supports doing so directly.
```
  obtain (⟨as, h₁, h₂⟩ | ⟨as, h₁, h₂⟩) := h
  · right
    rw [h₁]
    exact List.prefix_append u as
  · left
    rw [h₁]
    exact List.prefix_append v as
```
Another trick: sometimes, you can replace a `rw [h]` followed by `exact` (or apply or refine) by `h ▸`. The triangle is typed as `to` as is basically a simplified form of `rw`. It doesn't always work, but yields slightly shorter code if it does.
Now your code looks like this.
```
  obtain (⟨as, h₁, h₂⟩ | ⟨as, h₁, h₂⟩) := h
  · right
    exact h₁ ▸ List.prefix_append u as
  · left
    exact h₁ ▸ List.prefix_append v as
```
- Finally, you can inline the `left` and `right` tactic into the term you're giving the `exact` tactic, like so:
```
obtain (⟨as, h₁, h₂⟩ | ⟨as, h₁, h₂⟩) := h
  · exact Or.inr <| h₁ ▸ List.prefix_append u as
  · exact Or.inl <| h₁ ▸ List.prefix_append v as

File: Mathlib/Data/List/Commutativity.lean [hunk 15]
```diff
@@ -0,0 +1,110 @@
...
+          | intro t ht =>
+            rw [← ht]
+            rw [← ht, List.append_assoc, List.append_cancel_left_eq] at h
+            have bb := comm_iff_repeatList_of_same.mp h
+            cases bb with | intro wc wct =>
+            cases wct with | intro kc kct =>
+            cases kct with | intro lc lct =>
+            cases lct with
+            | intro left right =>
+              exists wc, kc, (kc+lc)
```
Comment (grunweg) [inline Mathlib/Data/List/Commutativity.lean:71]: A small style detail: please add spaces around binary operators; and you don't need the parentheses around `kc + lc`.

File: Mathlib/Data/List/Commutativity.lean [hunk 16]
```diff
@@ -0,0 +1,110 @@
...
+        exists smth, 0, 1
+      | hp :: tp, hq :: tq =>
+        cases pr with
+        | inr qp =>
+          cases qp with
+          | intro t ht =>
+            rw [← ht]
+            rw [← ht, List.append_assoc, List.append_cancel_left_eq] at h
+            have bb := comm_iff_repeatList_of_same.mp h
+            cases bb with | intro wc wct =>
```
Comment (grunweg) [inline Mathlib/Data/List/Commutativity.lean:66]: You can use `obtain` here to make this quite a bit shorter, as you can combine subsequent obtain calls into one. For instance, these five lines can be compressed down to:
```
obtain ⟨wc, ⟨kc, ⟨lc, ⟨left, right⟩⟩⟩⟩ := repeatList_of_same_of_comm h
```
In fact, because angular brackets are right-associative, this is equivalent to writing
```
obtain ⟨wc, kc, lc, left, right⟩ := repeatList_of_same_of_comm h

File: Mathlib/Data/List/Commutativity.lean [hunk 17]
```diff
@@ -0,0 +1,110 @@
...
+          cases pq with
+            | intro t ht =>
+              rw [← ht]
+              rw [← ht, List.append_assoc, List.append_cancel_left_eq] at h
+              have bb := comm_iff_repeatList_of_same.mp h.symm
+              cases bb with | intro wc wct =>
+              cases wct with | intro kc kct =>
+              cases kct with | intro lc lct =>
+              cases lct with
+              | intro left right =>
```
Comment (grunweg) [inline Mathlib/Data/List/Commutativity.lean:85]: Can you similarly compress these lines into one? Exercise for you.

File: Mathlib/Data/List/Commutativity.lean [hunk 18]
```diff
@@ -0,0 +1,110 @@
...
+            cases kct with | intro lc lct =>
+            cases lct with
+            | intro left right =>
+              exists wc, kc, (kc+lc)
+              constructor
+              · assumption
+              · rw [left, right, repeatList_append_repeatList]
+        | inl pq =>
+          cases pq with
+            | intro t ht =>
```
Comment (grunweg) [inline Mathlib/Data/List/Commutativity.lean:77]: Once you have done the exercise below, you can try to use the obtain tactic here.

File: Mathlib/Data/List/Commutativity.lean [hunk 19]
```diff
@@ -0,0 +1,110 @@
...
+                · assumption
+
+  -- Reverse direction (∃w k l... → u++v=v++u)
+  · rintro ⟨w, k, l, rfl, rfl⟩
+    rw [repeatList_append_repeatList, repeatList_append_repeatList, Nat.add_comm]
+
+termination_by (p ++ q).length
+decreasing_by
+
+  · have n : (hp :: tp).length + t.length = (hq :: tq).length := by
```
Comment (grunweg) [inline Mathlib/Data/List/Commutativity.lean:98]: Careful: `n` is not a natural number, but an equality statement between natural numbers. I wouldn't name it like this.
In fact, leaving it unnamed would be fine with me; then, you'd write `this` instead of `n` below.

Also for the other have below.

File: Mathlib/Data/List/Commutativity.lean [hunk 20]
```diff
@@ -0,0 +1,110 @@
...
+        rw [← List.length_append]
```
Comment (grunweg) [inline Mathlib/Data/List/Commutativity.lean:99]: Please indent proofs by two additional spaces, not four. (Also for the next line, and the other `have` below.)
```suggestion
      rw [← List.length_append]

File: Mathlib/Data/List/Commutativity.lean [hunk 21]
```diff
@@ -0,0 +1,110 @@
...
+    obtain ⟨as, h₁, h₂⟩ := l
+    rw [h₁]
+    exact List.prefix_append v as
+
+
+/-- Lyndon-Schutzenberger theorem: two lists commute with respect to append if and only if
+    there are exists list `k`, that both of them are `k` repeated several times. -/
+theorem comm_iff_repeatList_of_same {q p : List α} :
+  (q ++ p = p ++ q) ↔ (∃ w k l, q = List.repeatList k w ∧ p = List.repeatList l w) := by
+  constructor
```
Comment (grunweg) [inline Mathlib/Data/List/Commutativity.lean:46]: It could be worth splitting out the forward direction as a separate lemma: its proof is long enough.

**Review by grunweg — COMMENTED** [review]
Here's another round of comments: your code can be shortened some more. I hinted at some places; please also check if the same comments apply elsewhere.

File: Mathlib/Data/List/Lemmas.lean [hunk 22]
```diff
@@ -103,4 +102,18 @@ theorem mapAccumr₂_eq_foldr {σ φ : Type*} (f : α → β → σ → σ × φ
...
 end MapAccumr
 
+/-!
+  ### RepeatList
+  Some lemmas on `repeatList`
+-/
+section RepeatList
+
+theorem repeatList_append_repeatList {n m : ℕ} {w : List α} :
+  List.repeatList n w ++ List.repeatList m w = List.repeatList (n + m) w := by
```
Comment (madvorak) [inline Mathlib/Data/List/Lemmas.lean:112]:
```suggestion
    List.repeatList n w ++ List.repeatList m w = List.repeatList (n + m) w := by
```

File: Mathlib/Data/List/Commutativity.lean [hunk 23]
```diff
@@ -0,0 +1,110 @@
...
+    left
+    obtain ⟨as, h₁, h₂⟩ := l
+    rw [h₁]
+    exact List.prefix_append v as
+
+
+/-- Lyndon-Schutzenberger theorem: two lists commute with respect to append if and only if
+    there are exists list `k`, that both of them are `k` repeated several times. -/
+theorem comm_iff_repeatList_of_same {q p : List α} :
+  (q ++ p = p ++ q) ↔ (∃ w k l, q = List.repeatList k w ∧ p = List.repeatList l w) := by
```
Comment (madvorak) [inline Mathlib/Data/List/Commutativity.lean:45]:
```suggestion
    (q ++ p = p ++ q) ↔ (∃ w k l, q = List.repeatList k w ∧ p = List.repeatList l w) := by
```

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
